Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[N-:1]([C:2](=[O:3])[C+:4]([O:5][H:8])[N:6]([H:9])[H:10])[H:7]>>[N:1]([C:2](=[O:3])[C:4](=[O:5])[N:6]([H:9])[H:10])([H:7])[H:8],2.963650131723
[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[C:7][H:17])([H:8])([H:9])[H:10]>>[C-:1]([O+:2]=[C:3]([C:5]([H:14])([H:15])[H:16])[C:6]#[C:7][H:17])([H:8])[H:9].[C:4]([H:10])([H:11])([H:12])[H:13],67.170535337661
[C:1]([C:2]([C:3]([C:4](=[O:5])[H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([H:9])([H:10])[H:11])([H:6])([H:7])[H:8].[C:3](=[C:4]=[O:5])([H:12])[H:13],76.37997139600559
[C:1]([C-:2]([N+:3]([C:4]([H:12])([H:13])[H:14])([C:5](=[O:6])[H:15])[H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([N:3]([C:4]([H:12])([H:13])[H:14])[C:5](=[O:6])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9],21.203175434317387
[C-:1]([N+:2](=[C:3]([N:4]([H:8])[H:11])[H:10])[C:5](=[O:6])[H:12])([H:7])[H:9]>>[C:1]([N:2](/[C:3](=[N:4]/[H:11])[H:10])[C:5](=[O:6])[H:12])([H:7])([H:8])[H:9],0.08224247162050347
[O:1]=[C:2]([C:3]#[N:4])[H:5]>>[O:1]=[N:4][C:3]#[C:2][H:5],139.87044539306
[O:1]([C:2]([C@@:3]1([H:11])[C@@:4]([O:7][H:13])([H:12])[C:5]([H:14])=[C:6]1[H:15])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C@:6]1([H:15])[O:7]2)([H:9])[H:10])[H:8],90.97391703888239
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:11])=[C:4]2[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8].[O:5]([H:10])[H:12],87.41863045932631
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[N:1](=[C+:2][C:7](=[C-:6][O:5][H:9])[H:10])[H:8].[N:3]#[N:4],77.3976749977822
[C:1]([C:2]#[N+:3][O-:4])([H:8])([H:9])[H:10].[C:5]([N:6]([H:11])[H:12])#[C:7][H:13]>>[C:1]([c:2]1[n:3][o:4][c:5]([N:6]([H:11])[H:12])[c:7]1[H:13])([H:8])([H:9])[H:10],12.898763645226396
[C:1](=[C:2]=[O:3])([H:8])[H:9].[C:4]([O:5][H:12])([C:6](=[O:7])[H:13])([H:10])[H:11]>>[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10],42.0263617596506
[C:1]([C:2]([C:3]([C:4](=[O:5])[C:6](=[O:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:6](=[O:7])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10].[C:3](=[C:4]=[O:5])([H:13])[H:14],73.2308031424902
[N:1]([c:4]1[c:2](=[O:3])[c:5]1[H:8])([H:6])[H:7]>>[N:1]([C:2](=[O:3])[C:4]#[C:5][H:8])([H:6])[H:7],54.19583830034671
[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([N:7]([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[O:4]=[C:5]=[O:6],62.020232814085205
[N:1]([C:2](=[O:3])[C:4](=[C:5]=[N:6][H:9])[H:10])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8],58.398571882616196
[O:1]([C:2]([C@@:3]1([C:6](=[O:7])[H:14])[C:4]([H:11])([H:12])[N:5]1[H:13])([H:9])[H:10])[H:8]>>[C:4](=[N:5][H:13])([H:11])[H:12].[O:1]([C:2]([C:3](=[C:6]=[O:7])[H:14])([H:9])[H:10])[H:8],62.36229755849111
[C:1]([O:2]/[C:3](=[N:4]/[C:5]([H:10])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8]>>[C:1]([O+:2]=[C:3]([N:4]([C-:5]([H:11])[H:12])[H:10])[H:9])([H:6])([H:7])[H:8],77.4470729240103
[C-:1]1([H:7])[C:2]([H:9])([H:10])[C@:3]1([N:4]1[C:5]([H:12])([H:13])[C+:6]1[H:14])[H:11].[H:8][H:15]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]1([N:4]1[C:5]([H:12])([H:13])[C:6]1([H:14])[H:15])[H:11],32.5121579128009
[C:1]([C:2]#[C:3][C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]=[C:3]=[C:4]([H:10])[H:11])([H:7])[H:9].[C:5](#[N:6])[H:8],64.8052259843276
[C:1]([O:3][C:2]([N:5]([C+:4]=[C:6]=[N-:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10],62.5129280192384
[N:1]1([H:8])[C:2]([H:9])=[O+:3][C-:4]([H:11])[C:5]([H:12])([H:13])[C:6]([H:10])=[N:7]1>>[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8],18.105630557743396
[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]=[C:3]1[C:4]([H:10])([H:11])[C:5]1=[O:6])([H:7])[H:8].[H:9][H:12],87.4518153435347
[C:1]([O:2][H:19])([H:8])([H:9])[H:10].[C:3]1([H:11])([H:12])[C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[C:7]1([H:20])[H:21]>>[C:1]([O:2][C:3]([C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:11])[H:12])([H:8])([H:9])[H:10],64.86832285682262
[C:1](=[C:2]([C:6]1([H:12])[C-:3]([H:10])[O+:4]=[C:5]1[H:11])[H:9])([H:7])[H:8]>>[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[C@@:3]3([H:10])[O:4][C@:5]1([H:11])[C@@:6]23[H:12],18.476458548672596
[N:1]([C@@:2]([C:3]([O:4][H:12])([H:10])[H:11])([C:5]#[N:6])[H:9])([H:7])[H:8]>>[H:7][H:9].[N:1](=[C:2](/[C:3]([O:4][H:12])([H:10])[H:11])[C:5]#[N:6])\[H:8],97.4309268488732
[C:1]([C:2]([O:3][H:14])([H:10])[H:11])([H:7])([H:8])[H:9].[C:4](=[C:5]=[O:6])([H:12])[H:13]>>[C:1]([C:2]([O:3][C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],65.16194989472484
